US07964643B2
4′-Hydroxybiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide (ABD-277)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide and 4-hydroxyphenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 22.6, 28.9, 32.0, 42.6, 60.5, 116.0, 126.4, 127.2, 128.2, 129.2, 138.1, 143.8 and 158.1.

reactant | 4-bromophenyl-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C11H16BrNO3S
reactant | 4-hydroxyphenyl boronic acid | OC1=CC=C(C=C1)B(O)O | C6H7BO3
product | 4′-Hydroxybiphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C17H21NO4S
